US04518597
6-(5-Bromo-pentoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
A solution of 19.3 gm (0.1 mol) of 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one in 200 ml of dimethyl sulfoxide is mixed at ambient temperature with 41.5 gm (0.3 mol) of potassium carbonate and 92 gm (0.4 mol) of 1,5-dibromopentane, whereupon the temperature rises to 45° C. After stirring a further two hours, ice water is added, and the resulting mixture is extracted with chloroform. The chloroform phase is washed with water and dried with sodium sulfate, and the chloroform is distilled off. The residue is recrystallized from ethyl acetate/petroleum ether.

reactant | 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | 0.1 mol, 19.3 gm | OC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C10H11NO3
reactant | potassium carbonate | 0.3 mol, 41.5 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 0.4 mol, 92 gm | BrCCCCCBr | C5H10Br2
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 6-(5-Bromo-pentoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C15H20BrNO3
